US06605629B1
To a mixture of 2-hydroxy-4′-trifluoromethyl acetophenone (24.0 g), pyridine (10.3 g) and tetrahydrofuran (200 ml) was added dropwise phenyl chlorocarbonate (20.4 g) under ice-cooling, which was stirred at room temperature for 1 hour. The reaction mixture was concentrated, which was poured into water (500 ml), and extracted with ethyl acetate (150 ml×2). The organic layer was washed with water and then a saturated aqueous solution of sodium chloride, which was dried over anhydrous magnesium sulfate and concentrated. The residue was subjected to crystallization by addition of isopropyl ether (100 ml) to give crystals of 2-oxo-2-(4-trifluoromethylphenyl)ethyl phenyl carbonate (18.9 g, 53%). Melting point 134-135° C.

reactant | 2-hydroxy-4′-trifluoromethyl acetophenone | 24.0 g | OCC(=O)C1=CC=C(C=C1)C(F)(F)F | C9H7F3O2
reactant | pyridine | 10.3 g | N1=CC=CC=C1 | C5H5N
reactant | phenyl chlorocarbonate | 20.4 g | C(OC1=CC=CC=C1)(=O)Cl | C7H5ClO2
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | 2-oxo-2-(4-trifluoromethylphenyl)ethyl phenyl carbonate | 18.9 g, 53% | C(OCC(C1=CC=C(C=C1)C(F)(F)F)=O)(OC1=CC=CC=C1)=O | C16H11F3O4
